US04885301
2-(2-Propoxyphenyl)-6-purinone
A mixture of 4,5-diamino-2-(2-propoxyphenyl)pyrimidin-6-one (0.3 g), formamidine acetate (0.18 g) and anhydrous sodium acetate (0.1 g) was heated in an oil bath at 155°-165° C. for 21/2 hours. The mixture melted and then resolidified. Ethanol (1 ml) was added and the title compound was collected by filtration, 0.31 g, m.p. 256°-258° C.

reactant | 4,5-diamino-2-(2-propoxyphenyl)pyrimidin-6-one | 0.3 g | NC=1N=C(NC(C1N)=O)C1=C(C=CC=C1)OCCC | C13H16N4O2
reactant | formamidine acetate | 0.18 g | C(C)(=O)O.C(=N)N
reactant | sodium acetate | 0.1 g | C(C)(=O)[O-].[Na+]
solvent | Ethanol | 1 ml | C(C)O | C2H6O
product | 2-(2-Propoxyphenyl)-6-purinone | C(CC)OC1=C(C=CC=C1)C1=NC(C2=NC=NC2=N1)=O | C14H12N4O2
